US06734180B1
2-(tert-butoxycarbonylamino)-5-hydroxyindan (100 mg, 0.40 mmol) synthesized in Preparation Example 1 was dissolved in dry methylene chloride (2 ml), to which pyridine (0.15 ml, 1.8 mmol) and benzoyl chloride (0.14 ml, 1.1 mmol) were added, and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, to which diethylether was added. The organic layer was washed with, in the order of, an aqueous solution of saturated potassium hydrogen sulfate, brine, an aqueous solution of saturated sodium hydrogen carbonate, and brine, and then was dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by silica gel chromatography (hexane:ethyl acetate=3:1) to obtain 2-(tert-butoxycarbonylamino)-5-benzoyloxyindan (130 mg, 0.37 mmol) having the following physical properties:

reactant | 2-(tert-butoxycarbonylamino)-5-hydroxyindan | 0.40 mmol, 100 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)O | C14H19NO3
reactant | pyridine | 1.8 mmol, 0.15 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 1.1 mmol, 0.14 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-(tert-butoxycarbonylamino)-5-benzoyloxyindan | 0.37 mmol, 130 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)OC(C1=CC=CC=C1)=O | C21H23NO4
